US07691882B2
(4-(5-Methyl-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride
To a mixture of 2-methyl-5-(4-(2-nitro-ethyl)-benzyl)-furan (87 mg, 0.36 mmol) described in Manufacturing Example 46-1-5 and methanol (2 mL) was added lithium methoxide (27 mg, 0.71 mmol) at room temperature, which was stirred for 15 minutes at room temperature. The solvent was evaporated from the reaction mixture under a reduced pressure. Titanium (IV) chloride (86 μL, 0.78 mmol) was added at −78° C. to a mixture of the resulting residue, methylene chloride (2 mL) and tetrahydrofuran (1 mL), which was stirred for 1 hour at 0° C. The reaction mixture was cooled to −78° C., water (5 mL) was added, and the temperature was gradually raised to room temperature. The reaction mixture was extracted by addition of ethyl acetate and water. The organic layer was washed with water until the pH became about 5. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. Thereafter, the organic layer was filtered and the filtrate was concentrated under a reduced pressure to obtain the title compound (79 mg, 84%).

reactant | 2-methyl-5-(4-(2-nitro-ethyl)-benzyl)-furan | 0.36 mmol, 87 mg | CC=1OC(=CC1)CC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H15NO3
reactant | methanol | 2 mL | CO | CH4O
reactant | lithium methoxide | 0.71 mmol, 27 mg | C[O-].[Li+]
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Titanium (IV) chloride | 0.78 mmol, 86 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (4-(5-Methyl-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride | 79 mg, 84% | CC1=CC=C(O1)CC1=CC=C(C=C1)CC(=NO)Cl | C14H14ClNO2
